US20010056188A1
(R)-3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-(1,2-dimethylpropylamino)-2-propenenitrile
3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.200 g, 0.4 mmol) was stirred in (R)-1,2-dimethylpropylamine (0.2 ml) at 80° C. in a sealed flask for 20 h. Work up as described in Example 1, 2) gave 30 mg (13%) of the title compound as white crystals.

reactant | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.4 mmol, 0.200 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C18H11ClF6N2O2S2
reactant | (R)-1,2-dimethylpropylamine | 0.2 ml | C[C@H](C(C)C)N | C5H13N
product | (R)-3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-(1,2-dimethylpropylamino)-2-propenenitrile | 30 mg, 13% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)N[C@@H](C(C)C)C)(F)F | C22H20ClF6N3O2S
